US07482487B2
N-Benzyl-3-cyanobenzenesulfonamide
Benzylamine (1.17 g, 10 mmol) was added to a solution of 3-cyanobenzene sulphonyl chloride (2 g, 10 mmol) and triethylamine (3.45 ml, 25 mmol) in tetrahydrofuran (30 ml) and the mixture stirred at room temperature for 18 hours. The mixture was diluted with water (30 ml), and extracted with ethyl acetate (50 ml). The organic extract was dried over sodium sulphate and evaporated under reduced pressure to give the title compound as a solid, 2.53 g.

reactant | Benzylamine | 10 mmol, 1.17 g | C(C1=CC=CC=C1)N | C7H9N
reactant | 3-cyanobenzene sulphonyl chloride | 10 mmol, 2 g | C(#N)C=1C=C(C=CC1)S(=O)(=O)Cl | C7H4ClNO2S
reactant | triethylamine | 25 mmol, 3.45 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 30 ml | O | H2O
product | N-Benzyl-3-cyanobenzenesulfonamide | C(C1=CC=CC=C1)NS(=O)(=O)C1=CC(=CC=C1)C#N | C14H12N2O2S
